US08563577B2
Preparation of 2-((4-fluorophenyl)(methyl)amino)-2-phenylacetic acid hydrochloride (I6)
Ethyl 2-((4-fluorophenyl)(methyl)amino)-2-phenylacetate (I5) (0.59 g, 2.05 mmol) was dissolved in a mixture THF (10 ml) and water (10 ml), and lithium hydroxide hydrate (0.26 g, 6.14 mmol) was added. The reaction was stirred at room temperature for 3.5 hours and then at 70° C. for 24 hours. 3N HCl was added till pH was about 1, and the mixture was evaporated. Water (15 ml) was added, and the residue was triturated obtaining a pale brown suspension that was filtered on a buckner funnel washing with water and then with acetonitrile. The solid was dried under vacuum at 40° C. overnight to obtain intermediate I6 (0.44 g, 72% yield).

reactant | Ethyl 2-((4-fluorophenyl)(methyl)amino)-2-phenylacetate | 2.05 mmol, 0.59 g | FC1=CC=C(C=C1)N(C(C(=O)OCC)C1=CC=CC=C1)C | C17H18FNO2
reactant | lithium hydroxide hydrate | 6.14 mmol, 0.26 g | O.[OH-].[Li+]
reactant | HCl | 3N | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 2-((4-fluorophenyl)(methyl)amino)-2-phenylacetic acid hydrochloride | 72% yield | Cl.FC1=CC=C(C=C1)N(C(C(=O)O)C1=CC=CC=C1)C | InChI=1S/C15H14FNO2.ClH/c1-17(13-9-7-12(16)8-10-13)14(15(18)19)11-5-3-2-4-6-11;/h2-10,14H,1H3,(H,18,19);1H
